US08389511B2
tert-Butyl (3R,4R)-3-{[(2-nitrophenyl)sulfonyl]amino}-4-phenylpiperidine-1-carboxylate
tert-Butyl (3R,4R)-3-amino-4-phenylpiperidine-1-carboxylate (124 mg) was dissolved in methylene chloride (2 ml), and thereto were added triethylamine (125 μl) and 2-nitrobenzene sulfonyl chloride (109 mg) at 0° C., and the mixture was stirred at room temperature for 3 hours. To the reaction solution was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=1/1) to give the title compound (202 mg).

reactant | tert-Butyl (3R,4R)-3-amino-4-phenylpiperidine-1-carboxylate | 124 mg | N[C@H]1CN(CC[C@@H]1C1=CC=CC=C1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | triethylamine | 125 μl | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzene sulfonyl chloride | 109 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3R,4R)-3-{[(2-nitrophenyl)sulfonyl]amino}-4-phenylpiperidine-1-carboxylate | 202 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N[C@H]1CN(CC[C@@H]1C1=CC=CC=C1)C(=O)OC(C)(C)C | C22H27N3O6S
